US07943605B2
Potassium carbonate (0.62 g, 4.5 mmol, 2 eq) and pyrrolidine (0.28 ml, 3.37 mmol, 1.5 eq) are added to a solution of (2-oxo-1,3-oxazolidin-4-yl)methyl 4-methylbenzenesulfonate a91 (0.62 g, 2.25 mmol, 1 eq) in acetonitrile (22 ml). The mixture is heated at reflux overnight. After cooling, the mixture is filtered and the solid is washed with acetonitrile. The acetonitrile phases are concentrated in vacuo. The residue is taken up in dichloromethane, heated, filtered and washed with dichloromethane. The dichloromethane phases are concentrated in vacuo to give 0.35 g of 4-(pyrrolidin-1-ylmethyl)-1,3-oxazolidin-2-one a92 as a yellow oil.

reactant | Potassium carbonate | 4.5 mmol, 0.62 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 3.37 mmol, 0.28 ml, 1.5 eq | N1CCCC1 | C4H9N
reactant | (2-oxo-1,3-oxazolidin-4-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1NC(OC1)=O | C11H13NO5S
solvent | acetonitrile | 22 ml | C(C)#N | C2H3N
product | 4-(pyrrolidin-1-ylmethyl)-1,3-oxazolidin-2-one | 0.35 g, Yield: 92% | N1(CCCC1)CC1NC(OC1)=O | C8H14N2O2
